2136-04-30 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Admitted overnight
   - Started on bipap, given lasix 10mg IV x 1 and Zosyn 4.5mg
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-4-30**] 01:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-4-30**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 117 (113 - 119) bpm
   BP: 97/55(63) {78/48(62) - 108/67(73)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
             417 mL
   PO:
             TF:
   IVF:
   417 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,095 mL
   Urine:
   845 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -678 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.18/80.[**Numeric Identifier 248**]/69/24/0
   PaO2 / FiO2: 69
   Physical Examination
   Gen: Unfortable and tired appearing adult female, ill but not in
   extremis. NGT in place.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD.
   Chest: Diffuse wheezes and rhonchi.
   Cor: Normal S1, S2. Tachycardic, regular. No murmurs appreciated.
   Abdomen: BS+. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly.
   Labs / Radiology
   225 K/uL
   14.7 g/dL
   160 mg/dL
   0.6 mg/dL
   24 mEq/L
   5.1 mEq/L
   9 mg/dL
   112 mEq/L
   145 mEq/L
   45
   6.3 K/uL
        [image002.jpg]
                             [**2136-4-29**]  11:00 PM
                             [**2136-4-30**]  12:54 AM
                             [**2136-4-30**]  05:59 AM
                             [**2136-4-30**]  06:19 AM
   WBC
   6.3
   Hct
   47.8
   45
   Plt
   225
   Cr
   0.6
   0.6
   TCO2
   31
   Glucose
   136
   160
   Other labs: PT / PTT / INR:13.9/35.8/1.2, ALT / AST:22/28, Alk Phos / T
   Bili:78/0.3, Differential-Neuts:63.0 %, Band:19.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:6.7 mg/dL, Mg++:1.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: 70 yo female with known COPD presents with neasea, vomiting likely
   secondary to SBO, as well as pulmonary infact in the setting of
   polycythemia.
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear. [**Name2 (NI) **]-abdominal hernia has
   been described to cause this; alternatively, an ischemic event in the
   bowel, perhaps mediated by the pt's polycythemia, could also be a
   potential trigger.
   - appreciate surgical input
   - NGT tube
   - liberal volume repletion, although will hold further IV fluids for
   now given vigerous repletion already performed in ED
   - NPO
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   # Polycythemia: Pt with long-standing high-normal red cell mass.
   Suspect that current increase in red cell concentration is likely
   multifactorial, occuring in the setting of heavy tobacco use, probably
   dehydration and, most likely, a myloproliferative disorder. Pt's
   history of a JAK2 mutation makes the later even more likely.
   - serial HCTs
   - IV fluids as above
   - ASA (rectal while NPO)
   - phlebotomy as directed per hematology
   - appreciate ongoing hematology input
   - check epo level
   # Tachycardia: Likely multifactorial in the setting of acute illness,
   probable pulmonary edema, moderate respiratory distress, and pulmonary
   infarct. For now, will attempt to control via symptom relief (careful
   volume managment, bronchodilators, pain control) and will trend
   closely. Low threshold for further evaluation, such as pulmonary CTA,
   if no improvement.
   # Hypoxia: Suspected pulmonary infarct likely secondary to increased
   red cell mass. Likely also with component from COPD. [**Month (only) 60**] also Pt does
   not have LE swelling to suggest a peripheral venous source for PE.
   - Assess reponse to lasix, may need to consider intubation if
   respiratory status does not improve
   - Will need to monitor respiratory status closely in the setting of
   acute illness and volume repletion. Continue home albuterol and
   ipratropium nebs.
   - Consider imaging of pulmonary vasculature if deterioration
   # Bipolar Disorder: Will need to hold outpt psychiatric medication in
   setting of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary at the [**Last Name (un) **].
   # GERD: Continue PPI
   # FEN:
   - IVF as above
   - Correct/replete electrolytes PRN
   - NPO for now
   # PPx
   - SC Heparin
   - PPI
   # Access: PIV
   # Code status: FULL (confirmed with patient)
   # Communication: [**First Name8 (NamePattern2) **] [**Last Name (un) 8843**] [**Telephone/Fax (1) 8844**], [**Telephone/Fax (1) 8845**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-30**] 12:48 AM
   20 Gauge - [**2136-4-30**] 12:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-04-30 09:11:00 Physician Attending Progress Note
Chief Complaint: Small Bowel Obstruction
   COPD with acute exacerbation
   PE
   Polycythemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with ASA and hydration with 10 liters NS and 375cc phlebotomy
   Patient treated with NGT decompression alone without clear source
   identified for obstruction
   Overnight patient with persistent tachycardia and without significant
   change in abdominal exam
   CXR--suggesting pulmonay edema and Rx with nebulizer Rx for wheezing
   and lasix given for possible hydrostatic pulmonary edema
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2136-4-30**] 07:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-4-30**] 01:21 AM
   Furosemide (Lasix) - [**2136-4-30**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2136-4-30**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 111 (111 - 119) bpm
   BP: 104/60(71) {78/48(62) - 108/67(73)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
             561 mL
   PO:
             TF:
   IVF:
   561 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,160 mL
   Urine:
   1,760 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,599 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.23/77.[**Numeric Identifier 96**]/68/27/1
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : , Diminished: , Rhonchorous: ),
   Persistent diffuse crackles and wheezes thorugh this morning
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.4 g/dL
   257 K/uL
   152 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   8 mg/dL
   109 mEq/L
   143 mEq/L
   45
   6.4 K/uL
        [image002.jpg]
                             [**2136-4-29**]  11:00 PM
                             [**2136-4-30**]  12:54 AM
                             [**2136-4-30**]  05:59 AM
                             [**2136-4-30**]  06:03 AM
                             [**2136-4-30**]  06:19 AM
                             [**2136-4-30**]  08:02 AM
   WBC
   6.3
   6.4
   Hct
   47.8
   47.3
   45
   Plt
   225
   257
   Cr
   0.6
   0.6
   0.5
   TCO2
   31
   34
   Glucose
   136
   160
   152
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR-increased pulmonary congestion with minimal evidence of
   effusion initially and now with evolution of left sided effusion on CXR
   this am.
   CT Scan--bilateral lower lobe opacities without effusion--largely
   pleural based
   Assessment and Plan
   71 yo female with h/o COPD and MR now admit with SBO after presentation
   with nausea and vomiting.  During ED evaluation significant elevation
   of HCT seen and patient with bandemia noted but minimal evidence of
   focal source of infection.  In the setting of significant hydration
   patient has evolved some significant worsening of oxygenation and
   suggestion of pulmonary edema.
   1)Small Bowel Obstruction-Surgical consultation in place
   -NGT to suction
   -NPO
   -Follow exam
   -KUB for any acute chagnes
   2)Polycythemia-Do not have clear evidence as to source of persistent
   hypoxemia to drive elevation of RBC counts
the notion of polycythemia
   [**Doctor First Name **] is current diagnosis and will continue with Heme consultation.
   -ASA
   -Hydrate as possible
   -Heme to continue to follow and continue to discuss possibility of
   hydrea
   -Goal HCT=42
   3)Hypoxemia-There is question raised as to pulmonary embolism on CT
   scan initially and hypoxemia seen now in the setting of volume overload
   and inaddition patient now has pleural effusion and possible pulmonary
   infiltrates.
   -Follow up pulmonary imaging and exam to determine need for any further
   diuresis as non-invasive ventilation not reasonable.
   -Vanco/Zosyn to continue
   -Will need dedicated scan to evaluate for PE as the findings on CT scan
   are concerning, she does have suggestion of increased right hilar
   fullness which may represent venous congestion, she does have hypoxemia
   with alternative contribution from pulmonary edema
but given all these
   findings would
   -Check LENI
   -Check CTA for possible PE
   4)Bandemia
is concerning for possible source of infection but patient
   with no evidence of clear sputum/cough/fever although there are
   pulmonary infiltrates on CXR and CT scan.
   -Vanco/Flagyl
given and will continue and look to determine focal
   source of infection but for now treating as pneumonia
   -Continue to Rx for SBO as above
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-4-30**] 12:48 AM
   20 Gauge - [**2136-4-30**] 12:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2136-05-01 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2136-4-30**] 04:00 PM
 SPUTUM CULTURE - At [**2136-5-1**] 05:00 AM
   - Started on bipap with FiO2 40% for ABG: 7.18/80/69
   - Pleural effusions -> Lasix 10mg IV x 1 -> neg 2L
   - Stopped flagyl
   - CT-PE neg for PE on prelim, likely rapidly evolving PNA
   - FiO2 increased overnight to 50% for ABG 7.32/71/60
   - PICC placed but pulled to midline (too prox on CXR)
   - Transiently increased abd pain -> lactate 1.6 > 1.1, KUB unchanged on
   wet read.
   - NGT to suction overnight and pulled in am by surgery.
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-4-30**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-4-30**] 10:44 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-1**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-1**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 112 (109 - 121) bpm
   BP: 102/55(66) {93/46(58) - 113/64(75)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,327 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    470 mL
   Urine:
                                                                  2,885 mL
                                                                    270 mL
   NG:
                                                                    625 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,184 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 90%
   ABG: 7.32/71/60/31/6
   PaO2 / FiO2: 120
   Physical Examination
   Gen: Unfortable and tired appearing adult female, ill but not in
   extremis. NGT in place.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD.
   Chest: Diffuse wheezes and rhonchi.
   Cor: Normal S1, S2. Tachycardic, regular. No murmurs appreciated.
   Abdomen: BS+. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly.
   Labs / Radiology
   198 K/uL
   13.6 g/dL
   149 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   43.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2136-4-29**]  11:00 PM
                             [**2136-4-30**]  12:54 AM
                             [**2136-4-30**]  05:59 AM
                             [**2136-4-30**]  06:03 AM
                             [**2136-4-30**]  06:19 AM
                             [**2136-4-30**]  08:02 AM
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
   WBC
   6.3
   6.4
   4.8
   Hct
   47.8
   47.3
   45
   45
   43.0
   Plt
   [**Telephone/Fax (3) 8856**]
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   31
   34
   38
   Glucose
   136
   160
   152
   149
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   A/P: 70 yo female with known COPD presents with neasea, vomiting likely
   secondary to SBO, as well as pulmonary infact in the setting of
   polycythemia.
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear. [**Name2 (NI) **]-abdominal hernia has
   been described to cause this; alternatively, an ischemic event in the
   bowel, perhaps mediated by the pt's polycythemia, could also be a
   potential trigger.
   - appreciate surgical input
   - NGT tube
   - liberal volume repletion, although will hold further IV fluids for
   now given vigerous repletion already performed in ED
   - NPO
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   # Polycythemia: Pt with long-standing high-normal red cell mass.
   Suspect that current increase in red cell concentration is likely
   multifactorial, occuring in the setting of heavy tobacco use, probably
   dehydration and, most likely, a myloproliferative disorder. Pt's
   history of a JAK2 mutation makes the later even more likely.
   - serial HCTs
   - IV fluids as above
   - ASA (rectal while NPO)
   - phlebotomy as directed per hematology
   - appreciate ongoing hematology input
   - check epo level
   # Tachycardia: Likely multifactorial in the setting of acute illness,
   probable pulmonary edema, moderate respiratory distress, and pulmonary
   infarct. For now, will attempt to control via symptom relief (careful
   volume managment, bronchodilators, pain control) and will trend
   closely. Low threshold for further evaluation, such as pulmonary CTA,
   if no improvement.
   # Hypoxia: Suspected pulmonary infarct likely secondary to increased
   red cell mass. Likely also with component from COPD. [**Month (only) 60**] also Pt does
   not have LE swelling to suggest a peripheral venous source for PE.
   - Assess reponse to lasix, may need to consider intubation if
   respiratory status does not improve
   - Will need to monitor respiratory status closely in the setting of
   acute illness and volume repletion. Continue home albuterol and
   ipratropium nebs.
   - Consider imaging of pulmonary vasculature if deterioration
   # Bipolar Disorder: Will need to hold outpt psychiatric medication in
   setting of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary at the [**Last Name (un) **].
   # GERD: Continue PPI
   # FEN:
   - IVF as above
   - Correct/replete electrolytes PRN
   - NPO for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2136-4-30**] 04:00 PM
   Prophylaxis:
   DVT: Sub Q Hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  [**First Name8 (NamePattern2) **] [**Last Name (un) 8843**] [**Telephone/Fax (1) 8844**], [**Telephone/Fax (1) 8845**]  Comments:
   Code status: FULL
   Disposition:

2136-05-01 10:51:00 Physician Attending Progress Note
Chief Complaint: SBO
   COPD with acute exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2136-4-30**] 04:00 PM
 SPUTUM CULTURE - At [**2136-5-1**] 05:00 AM
   Patient with worsening hypercarbia across the day and requiring BIPAP
   support across the night.
   7.18/88/69=ABG prior to BIPAP start and patient with improvement
   following BIPAP rx
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-4-30**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-1**] 07:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-1**] 07:59 AM
   Pantoprazole (Protonix) - [**2136-5-1**] 09:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2136-5-1**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 106 (106 - 121) bpm
   BP: 98/57(67) {93/46(58) - 113/63(78)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,327 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    587 mL
   Urine:
                                                                  2,885 mL
                                                                    387 mL
   NG:
                                                                    625 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,184 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.33/74/70/31/8
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.6 g/dL
   198 K/uL
   149 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   43.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2136-4-29**]  11:00 PM
                             [**2136-4-30**]  12:54 AM
                             [**2136-4-30**]  05:59 AM
                             [**2136-4-30**]  06:03 AM
                             [**2136-4-30**]  06:19 AM
                             [**2136-4-30**]  08:02 AM
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
   WBC
   6.3
   6.4
   4.8
   Hct
   47.8
   47.3
   45
   45
   43.0
   Plt
   [**Telephone/Fax (3) 8856**]
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   31
   34
   38
   41
   Glucose
   136
   160
   152
   149
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: CT--no PE noted
   KUB--no free air
   Assessment and Plan
   71 yo with COPD and initial presentation with SBO who was found to have
   polycythemia.  Upon further history it does appear that patient has had
   long standing hypoxemia and O2 requirement at home which she may not
   have been fully supported with O2 which may in large part contributing
   to elevation in HCT.  Now she has severe compromise in regards to both
   oxygenation and ventilation.  This may well be driven by the large
   bilateral LL consolidations with minimal effusions.  In that setting
   patient has had some worsening of vd/Vt with consolidation of the lower
   lobes and exclusive use of the upper lobes.  This may account for
   moving to position of severe compromise of ventilation and perfusion
   until LL consolidations are improved.  This will have to be pursued
   through aggressive chest PT, [**Name (NI) **], suctioning.  In terms of support
   BIPAP would be concerning as modality given need to secretion
   clearance, patient compliance will be limited and concern for
   aerophagia is significnat with SBO.
   1)Respiratory Failure--Secondary to above, will--.
   -Attempt IPPV across the day
   -If progression seen will have to move to intubation
   -Vanco/Zosyn for infection
   -Cough and chest PT to be pursued but will be difficult to establish.
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)-
   -NGT D/C'd
   -Further support by surgery team
   -NPO today given SBO and tenuous resp status
   -Volume status and consider pt. euvolemic this morning
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition: npo, Nutrition needs TBD
   Glycemic Control:
   Lines:
   Midline - [**2136-4-30**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2136-05-02 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: vomiting, respiratory distress
   24 Hour Events:
   - CTA: (final read): No PE
   - f/u surgery recs: poor surgical candidate, conservative management.
   - a-line placed
   - trial of BiPAP: failed as pt could not tolerate.
   - patient noted to have diffuse blanching macular/confluescent rash on
   torso.
   - continued vanc/Zosyn for aspiration pneumonia
   - patient having more (bilious) vomiting so an NGT was placed
   - ABG showed improved ventilation
   - coughing up more phlegm
   - c/o increasing appetite
 wants to eat
   Allergies:
   Phenothiazines
   Unknown
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-1**] 08:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-1**] 11:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-1**] 09:47 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-1**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 90 (90 - 113) bpm
   BP: 142/76(101) {108/54(75) - 150/80(280)} mmHg
   RR: 22 (12 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,550 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                  1,550 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    920 mL
   Urine:
                                                                    770 mL
                                                                    370 mL
   NG:
                                                                    200 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 94%
   ABG: 7.37/63/75/36/7
   PaO2 / FiO2: 125
   Physical Examination
   GENERAL: awake, alert, and interactive
   LUNGS: diffuse coarse breath sounds
   HEART: RRR, normal S1/S2
   [**Last Name (un) **]: absent bowel sounds. No guarding, no rebound. Scattered
   erythematous papular rash on abdomen and back
   Labs / Radiology
   205 K/uL
   13.2 g/dL
   134 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   10 mg/dL
   98 mEq/L
   142 mEq/L
   40.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2136-4-30**]  06:19 AM
                             [**2136-4-30**]  08:02 AM
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
   WBC
   4.8
   6.2
   Hct
   45
   45
   43.0
   40.6
   Plt
   198
   205
   Cr
   0.5
   0.7
   TCO2
   34
   38
   41
   37
   37
   38
   Glucose
   149
   134
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 70 yo woman with known COPD presents with neasea, vomiting likely
   secondary to SBO, as well as pneumonia likely secondary to aspiration.
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  NGT replaced.
   - continue NPO status
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   - will clamp NGT if low output in afternoon
   # Polycythemia: likely mix of secondary to COPD and hemoconcentration.
   Resolved with hydration.  Will continue to monitor hct, nothing more to
   do for now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   - will need to monitor respiratory status closely in the setting of
   acute illness and volume repletion. Continue home albuterol and
   ipratropium nebs.
   -chest PT and cough as needed
   -will change antibiotics from vanco/Zosyn to Levo/Flagyl due to drug
   rash on abdomen and back (continue for 8-day course for aspiration
   pneumonia coverage)
   # Drug rash: changing antibiotics today as above; continue to monitor
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary at the [**Last Name (un) **].
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - NPO for now
   - initiate TPN today via PICC
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines: PICC line.
   Prophylaxis:
   DVT: Sub Q Hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  [**First Name8 (NamePattern2) **] [**Last Name (un) 8843**] [**Telephone/Fax (1) 8844**], [**Telephone/Fax (1) 8845**]  Comments:
   Code status: FULL
   Disposition: pending clinical improvement

2136-05-02 10:56:00 Physician Attending Progress Note
Chief Complaint: SBO
   Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Rash noted yesterday PM
   SBO with continued conservative management but no significant return in
   bowel function--bilious vomiting has returned
   ABG better last pm, increased cough production
   24 Hour Events:
 PICC LINE - START [**2136-5-1**] 12:57 PM
 MIDLINE - STOP [**2136-5-1**] 01:00 PM
 ARTERIAL LINE - START [**2136-5-1**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2136-5-2**] 04:13 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: MR
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-2**] 08:00 AM
   Vancomycin - [**2136-5-2**] 08:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2136-5-2**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 95 (90 - 112) bpm
   BP: 135/75(98) {108/54(75) - 150/83(280)} mmHg
   RR: 24 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,550 mL
                                                                    417 mL
   PO:
             TF:
   IVF:
                                                                  1,550 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                  1,080 mL
   Urine:
                                                                    770 mL
                                                                    530 mL
   NG:
                                                                    200 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                   -663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.37/63/75/36/7
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.2 g/dL
   205 K/uL
   134 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   10 mg/dL
   98 mEq/L
   142 mEq/L
   40.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2136-4-30**]  06:19 AM
                             [**2136-4-30**]  08:02 AM
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
   WBC
   4.8
   6.2
   Hct
   45
   45
   43.0
   40.6
   Plt
   198
   205
   Cr
   0.5
   0.7
   TCO2
   34
   38
   41
   37
   37
   38
   Glucose
   149
   134
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CTA--no PE, [**Hospital1 **]-basilar infiltrates
   Assessment and Plan
   71 yo female admit with SBO now with course compliacted by significant
   evidence of [**Hospital1 **]-basilar infiltrate concerning for aspiration pnumonia
   driving consistent respiratory compromise.  She has been able to
   produce some sputum with cough.  She has not had any further worsening
   of her oxygenation or ventilation and in fact O2 requirement has not
   worsened from yesterday.
   1) SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)-Patient with suggestion of passing of gas
   from below.  Persistent high NGT output, however, and minimal BS on
   exam.
   -Continue npo
   -follow exam
   2)Hypoxemia and Respiratory Distress-
   For PNA-Vanco/Zosyn
   -Continue with Alb/Atr to continue
   -Will have to consider change in ABX if rash continues or worsens
   -Will maintain OOB
Chair, chest PT, IC to continue
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition: PICC in
will move to start TPN given slow move to resolution
   of SBO and concern for need to maintain adequate nutrion now 5 days
   into hospitalization
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   Arterial Line - [**2136-5-1**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2136-05-03 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TPN started
   - abdominal pain in afternoon- non-tender on exam: tylenol provided no
   relief so given ketorolac x1 dose
   - coughing up more mucus
   - NGT clamped off in afternoon (c/w surgery)
   - changed antibiotics to Levo/Flagyl d/t drug rash on vanco/Zosyn
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-2**] 08:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-2**] 04:00 PM
   Levofloxacin - [**2136-5-2**] 09:27 PM
   Metronidazole - [**2136-5-3**] 03:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-3**] 12:59 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 94 (88 - 106) bpm
   BP: 147/79(106) {107/62(79) - 161/89(117)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,081 mL
                                                                    476 mL
   PO:
             TF:
   IVF:
                                                                    850 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    720 mL
   Urine:
                                                                    905 mL
                                                                    420 mL
   NG:
                                                                  1,000 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -824 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   GENERAL: awake, alert, and interactive, NG tube clamped
   LUNGS: diffuse coarse breath sounds, +rhonchi, +wheezing.
   HEART: RRR, normal S1/S2
   [**Last Name (un) **]: Minimal bowel sounds. No guarding, no rebound. Scattered
   erythematous papular rash on abdomen and back
   Labs / Radiology
   212 K/uL
   12.6 g/dL
   136 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.4 mEq/L
   18 mg/dL
   98 mEq/L
   142 mEq/L
   40.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2136-4-30**]  08:02 AM
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
                             [**2136-5-3**]  04:03 AM
   WBC
   4.8
   6.2
   8.3
   Hct
   45
   43.0
   40.6
   40.4
   Plt
   198
   205
   212
   Cr
   0.5
   0.7
   0.7
   TCO2
   34
   38
   41
   37
   37
   38
   Glucose
   149
   134
   136
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 70 yo woman with known COPD presents with neasea, vomiting likely
   secondary to SBO, as well as pneumonia likely secondary to aspiration.
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  NGT replaced, now
   clamped.  Patient with no current n/v and minimal bowel sounds.   SBO
   may be resolving now.
   - continue NPO status, although will consider clear diet later this
   afternoon.
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   - [**Month (only) 60**] be able to pull BG tube if patient without nausea/emesis today.
   # Polycythemia: likely mix of secondary to COPD and hemoconcentration.
   Resolved with hydration.  Will continue to monitor hct, nothing more to
   do for now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   Cough improving with much instruction.  Patient now with less tenuous
   respiratory status.
   - will need to monitor respiratory status closely in the setting of
   acute illness and volume repletion. Continue home albuterol and
   ipratropium nebs.
   -chest PT and cough as needed
   -will change antibiotics from vanco/Zosyn to Levo/Flagyl due to drug
   rash on abdomen and back (continue for 8-day course for aspiration
   pneumonia coverage)
   # Drug rash: changing antibiotics today as above; continue to monitor
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - NPO for now
   - initiate TPN today via PICC
   ICU Care
   Nutrition:
   TPN without Lipids - [**2136-5-2**] 06:29 PM 41.[**Telephone/Fax (5) 1683**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   Arterial Line - [**2136-5-1**] 02:00 PM
   20 Gauge - [**2136-5-2**] 12:35 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU until decreased O2 requirement

2136-05-03 09:39:00 Physician Attending Progress Note
Chief Complaint: SBO
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71F with high grade SBO and a
   24 Hour Events:
   TPN started
   Mild abd pain, resovled with nsaid iv.
   RASH likely from zosyn, changed to levoflox and flagyl.
   Mild hypoxia persists.
   Small BM again this am.
   History obtained from Patient
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-2**] 08:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-2**] 04:00 PM
   Levofloxacin - [**2136-5-2**] 09:27 PM
   Metronidazole - [**2136-5-3**] 03:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-3**] 08:00 AM
   Other medications:
   pantopr, sqh, ipratr,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Nutritional Support: NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Flowsheet Data as of  [**2136-5-3**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 113 (88 - 113) bpm
   BP: 134/87(103) {107/62(79) - 161/89(117)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,081 mL
                                                                    595 mL
   PO:
             TF:
   IVF:
                                                                    850 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    880 mL
   Urine:
                                                                    905 mL
                                                                    580 mL
   NG:
                                                                  1,000 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -824 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 85%
   ABG: 7.40/59/61/37/8
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilat, Rhonchorous: bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, very few bs
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: resolving
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   212 K/uL
   136 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.4 mEq/L
   18 mg/dL
   98 mEq/L
   142 mEq/L
   40.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2136-4-30**]  01:26 PM
                             [**2136-5-1**]  01:35 AM
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
                             [**2136-5-3**]  04:03 AM
                             [**2136-5-3**]  08:17 AM
   WBC
   4.8
   6.2
   8.3
   Hct
   45
   43.0
   40.6
   40.4
   Plt
   198
   205
   212
   Cr
   0.5
   0.7
   0.7
   TCO2
   38
   41
   37
   37
   38
   38
   Glucose
   149
   134
   136
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:64.0 %, Band:18.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71F with SBO and likely aspiration PNA, bibasilar:
   PNA/Hypoxia: likely shunt physiology; some more wheezing today,
   ?aspiration (got ice out of trash)
   -cont levoflox and flagyl
   -cont chest PT
   -suppl oO2
   -standing nebs; considering steriods although unlikely copd flair
   SBO:
   -cont npo and tpn
   -cont holding
   -surgery following; no indication for procedure
   SINUS TACH:
   -monitor
   DRUG RASH:
   -resolving, likely from zosyn (vs vanco)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2136-5-2**] 06:29 PM 41.[**Telephone/Fax (5) 1683**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   Arterial Line - [**2136-5-1**] 02:00 PM
   20 Gauge - [**2136-5-2**] 12:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team on this date for
   discussion of the above findings and independently examined the
   patient.  I would agree with the findings and plan as defined above and
   would add the following comments.
   [**Name (NI) 8879**]
   Pt alter, cooperative and in chair
   Able to take deep breath and cough on command
   Lungs
Decreased BS dependently and with mild prolongation of expiratory
   phase.
   A/P
71 yo female with presentation with SBO and signfiicant evidence of
   bilateral LL opacities consistent with aspiraiton, pneuomnia and
   collapse.  Bronchoscopy has been considered and given need for
   intubation to safely perform will hold for now as patient is able to
   comply with chest PT and has effective cough.
   -Chest PT
   -OOB to chair
   -IC
   -Abx
   _O2 to wean as possible
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2136-5-3**] 18:24 ------

2136-05-04 11:40:00 Physician Attending Progress Note
Chief Complaint: SBO
   Aspiration Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2136-5-3**] 12:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-2**] 08:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-2**] 04:00 PM
   Levofloxacin - [**2136-5-3**] 10:00 PM
   Metronidazole - [**2136-5-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-5-3**] 02:09 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-4**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2136-5-4**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 98 (98 - 116) bpm
   BP: 117/79(87) {107/67(71) - 124/80(90)} mmHg
   RR: 27 (19 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,789 mL
                                                                    569 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,650 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    820 mL
   Urine:
                                                                  2,220 mL
                                                                    820 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 91%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, minimal but some
   stool and gas passed from below
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   196 K/uL
   214 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.6 mEq/L
   20 mg/dL
   102 mEq/L
   146 mEq/L
   42.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2136-5-1**]  04:14 AM
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
                             [**2136-5-3**]  04:03 AM
                             [**2136-5-3**]  08:17 AM
                             [**2136-5-3**]  08:51 PM
                             [**2136-5-4**]  05:10 AM
   WBC
   4.8
   6.2
   8.3
   14.2
   Hct
   43.0
   40.6
   40.4
   42.0
   Plt
   198
   205
   212
   196
   Cr
   0.5
   0.7
   0.7
   0.7
   0.6
   TCO2
   41
   37
   37
   38
   38
   Glucose
   149
   134
   136
   354
   214
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR-Much improved aeration of lower lung fields.
   Assessment and Plan
   71 yo female with SBO now with NGT removed and able to maintain
   oxygenation with NC alone.  She has had some meaninful return of bowel
   function as evidenced by passage of stool.  Of meaninful concern is
   elevation in WBC count which may be marker of infection.  Will have to
   check for C. Diff but otherwise do not have focal infection identified
   as source.
   Hypoxemic Respiratory Failure-
   PNA-Levo/Flagyl
   Lobar Collapse
OOB to chair, chest PT, suctioning
   -Wean O2 as tolerated
   Leukocytosis-
   -Check C. Diff
   -Continue ABX as defined
   SBO-
   -Return to PO
   -Will follow exam
   -Sips this morning only
   ICU Care
   Nutrition: TPN but are advancing po intake slowly
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-2**] 12:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if O2 requirement decreased.
   Total time spent: 40 minutes

2136-05-05 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: nausea, abdominal pain, SBO, pna
   24 Hour Events:
   - NG tube placed. TF not started [**2-6**] to lack of pump
   - patient spiked temp - Bl Cx, U Cx, and C. diff sent earlier in day
   - S&S rec NPO over weekend and video eval on monday
   - d/ced insulin as not on TPN
   - no focal complaints this morning, patient complaining of thirst, no
   abdominal pain
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-2**] 08:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2136-5-2**] 04:00 PM
   Levofloxacin - [**2136-5-3**] 10:00 PM
   Metronidazole - [**2136-5-4**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-4**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-5**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.2
C (97.1
   HR: 109 (97 - 109) bpm
   BP: 113/87(93) {96/61(74) - 122/87(93)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,785 mL
                                                                    768 mL
   PO:
             TF:
             20 mL
   IVF:
                                                                  1,431 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,211 mL
                                                                    330 mL
   Urine:
                                                                  1,211 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    574 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   GENERAL: awake, alert and oriented; in mild respiratory distress,
   although maintaining O2 sats as above
   LUNGS: coarse breath sounds anteriorly; scattered wheezes in posterior
   fields
   HEART: RRR, normal S1/S2
   [**Last Name (un) **]: soft and non-tender; HYPOACTIVE bowel sounds present; abdominal
   rash has resolved
   EXTREMITIES: non-edematous, no rashes
   Labs / Radiology
   207 K/uL
   12.7 g/dL
   123 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.1 mEq/L
   13 mg/dL
   102 mEq/L
   145 mEq/L
   39.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2136-5-1**]  07:44 AM
                             [**2136-5-1**]  02:07 PM
                             [**2136-5-1**]  11:39 PM
                             [**2136-5-2**]  12:40 AM
                             [**2136-5-2**]  03:57 AM
                             [**2136-5-3**]  04:03 AM
                             [**2136-5-3**]  08:17 AM
                             [**2136-5-3**]  08:51 PM
                             [**2136-5-4**]  05:10 AM
                             [**2136-5-5**]  04:43 AM
   WBC
   6.2
   8.3
   14.2
   11.6
   Hct
   40.6
   40.4
   42.0
   39.2
   Plt
   [**Telephone/Fax (3) 8900**]07
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   41
   37
   37
   38
   38
   Glucose
   134
   136
   354
   214
   123
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 70 yo woman with known COPD presented with nausea, vomiting likely
   secondary to SBO, as well as pneumonia likely secondary to aspiration,
   clinically she appears stable to modestly improved, although still
   requiring large amounts of oxygen to maintain saturations.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   Her cough has been improving with much instruction, and her respiratory
   status is overall improved, although still somewhat tenuous on high
   amounts of supplemental oxygen. She was originally treated with
   Vanco/Zosyn for aspiration pna; however, she developed a drug rash on
   this regimen and was switched to Levo/Flagyl on [**5-3**].
   - continue albuterol and ipratropium nebs
   - chest PT and cough as needed
   - continue antibiotics with Levo/Flagyl for 8-day course
   - consider broadening coverage for MRSA if clinically worsens
   - will check CT chest today d/t fevers/white count/tenuous respiratory
   status and concern that current antibiotic regimen may not be
   sufficient; would like to check for interval change from previous CT
   mid last week
   - sputum cultures today
   - will start IV steroids today d/t wheezes heard on exam
   - check ABG this morning
   # Leukocytosis/fever: Unclear etiology at this time.  Patient also with
   fever to 101.5 overnight. Concern for UTI or possible aspiration event
   as patient started on sips.  C dif from [**5-4**] was negative.
   - follow-up blood, urine, sputum cultures
   - CT chest as above
   - consider broadening antimicrobial coverage if clinically worsens
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  [**Name2 (NI) 53**] with no current
   n/v and minimal bowel sounds.   SBO may be resolving now.  NGT in
   place, tube feeds have been started.
   - advance TF rate as tolerated
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   - video study pending for Monday
   # Polycythemia: likely due to COPD and hemoconcentration.  Resolved
   with hydration.  Will continue to monitor hct, nothing more to do for
   now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Drug rash: resolved after antibiotic change as above
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - TF for now pending video evaluation as above
   - D%
 NS today due to thirst and possible dehydration
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-5-5**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-2**] 12:35 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : pending improvement in respiratory status
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) **]
s note and agree
   with the findings and plan of care.  While overall Ms [**Known lastname 8842**] has
   improved, today she is showing more hypoxemia which is not due to
   further increase in PC02.  Her CXR is not significantly changed to my
   eye compared to yesterday
s.  She was changed to Levo/Flagyl yesterday
   from Zosyn/Vanco due to rash.  She also developed a fever last night.
   The etiology of her worse V/Q mismatch is not entirely clear. I doubt
   CHF or PE.  It could be the wheezing we hear prominently on exam today
   or mucus plugging as her sputum by report is thick and yellow.  We have
   started IV steroids and will try Mucomyst by nebs, in addition to high
   fi02 and Xopenex and Ipatropium nebs.  We will also consult with ID
   about changing antibiotic coverage pending sputum culture results.
   However, she is very close to needing intubation if these measures
   [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] or she tires before they do.  50 min spent in the care of
   this critically ill patient.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2136-5-5**] 14:29 ------

2136-05-06 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: nausea, SBO, respiratory distress, pna
   24 Hour Events:
   - started solumedrol, continued nebs, added mucomyst
   - consider repeat CT- patient too unstable
   - sputum culture- good sample, no microorganisms on gram stain
   - urine legionella- pending
   - advance TF- done
   - continued Flagyl, changed levo for vanco (MRSA) and aztreonam (gram
   negatives and resistant pseudomonas) after curbsiding ID
   - ABG in AM- 7.41/55/64- slight worsening in oxygenation
   - intubated in afternoon due to worsening O2 sats
   - repeat ABG at 5PM- 7.43/52/83- FiO2 100%, Vt 500, RR 16, PEEP 7
   - changed vent settings to FiO2 50%, Vt 320, RR 23, PEEP 10
   - repeat ABG at 10PM- 7.33/70/105
   - repeat ABG at 12PM- 7.35/64/65, could not decrease PEEP so gave 500cc
   fluid for SBP of 76 with rise in SBP to 90s
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2136-5-3**] 10:00 PM
   Vancomycin - [**2136-5-5**] 05:14 PM
   Aztreonam - [**2136-5-5**] 10:48 PM
   Metronidazole - [**2136-5-6**] 04:54 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-5**] 10:03 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-5**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-6**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 113 (89 - 123) bpm
   BP: 94/46(56) {83/24(53) - 140/82(91)} mmHg
   RR: 26 (10 - 39) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  3,653 mL
                                                                  1,352 mL
   PO:
             TF:
                                                                    198 mL
                                                                    164 mL
   IVF:
                                                                  3,055 mL
                                                                  1,187 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    220 mL
   Urine:
                                                                    960 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,693 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 500) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/64/65/31/6
   Ve: 10 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: awakens to voice, squeezes hands on command (appears
   under-sedated); intubated
   Lungs: bilateral equal and coarse breath sounds. No wheezes.
   Heart: regular rate and rhythm; distant S1/S2
   [**Last Name (un) **]: soft and nontender; hypoactive bowel sounds
   Extrem: trace pitting edema to mid shins bilaterally
   Labs / Radiology
   191 K/uL
   11.8 g/dL
   207 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   143 mEq/L
   37.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2136-5-3**]  04:03 AM
                             [**2136-5-3**]  08:17 AM
                             [**2136-5-3**]  08:51 PM
                             [**2136-5-4**]  05:10 AM
                             [**2136-5-5**]  04:43 AM
                             [**2136-5-5**]  12:09 PM
                             [**2136-5-5**]  05:39 PM
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
   WBC
   8.3
   14.2
   11.6
   9.1
   Hct
   40.4
   42.0
   39.2
   37.5
   Plt
   [**Telephone/Fax (3) 8916**]91
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   38
   36
   36
   39
   37
   Glucose
   136
   354
   214
   123
   207
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD presented originally with nausea,
   vomiting likely secondary to SBO, as well as pneumonia likely secondary
   to aspiration, treated initially with vanc/Zosyn, then levo/Flagyl
   after development of drug rash. Unfortunately, on the latter regimen,
   her respiratory status worsened, she developed white count and spiked
   fevers, requiring alteration of antibiotics and intubation for hypoxic
   respiratory distress.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   Her cough had been improving with much instruction, and her respiratory
   status had improved originally with vanco/Zosyn for aspiration pna;
   however, she developed a drug rash on this regimen and was switched to
   levo/Flagyl on [**5-3**]. With the levo/Flagyl, she spiked and developed
   increasing oxygen demands necessitating intubation on [**5-5**]. She is
   currently on assist control ventilation, with vanco/aztreonam/flagyl
   for aspiration pna coverage. She is afebrile with decreasing white
   count since starting this regimen.
   -continue albuterol and ipratropium inh
   -taper methylprednisolone to 40 mg q8h
   -continue antibiotics with vanco/aztreonam/Flagyl- course not yet
   decided on
   -bronchoscopy today
   -f/u sputum culture
   -repeat ABG this morning
   # Leukocytosis/fever: improving after antibiotic adjustment as above
   -follow-up blood, urine, sputum cultures
   # Hypotension/increase in lactate: hypotension believed due to
   combination of PEEP and sedation on vent since before intubation she
   was never hypotensive, despite ongoing infection. The low BP has
   responded well to IVF. However, due to rising lactate, we would like to
   maintain slightly higher MAPs. Therefore, will aim for MAPs >65 with
   fluid boluses prn.
   -fluid bolus 500 cc prn
   -repeat lactic acid in afternoon with ABG
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  [**Name2 (NI) 53**] with no current
   n/v and minimal bowel sounds.  SBO may be resolving now.  NGT in place,
   tube feeds have been started.
   - advance TF rate as tolerated
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   # Polycythemia: likely due to COPD and hemoconcentration.  Resolved
   with hydration.  Will continue to monitor hct, nothing more to do for
   now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Drug rash: resolved after antibiotic change as above
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - TF for now pending video evaluation as above
   - D5
 NS today due to thirst and possible dehydration
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-5-5**] 10:48 PM 30 mL/hour
   Glycemic Control:
   Lines:  Single lumen PICC Line - [**2136-5-1**] 12:57 PM, 20 Gauge -
   [**2136-5-2**] 12:35 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: ICU
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined this patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8911**]
 note and agree
   with his findings and plan of care.   24 hour events on Ms [**Known lastname 8842**]
   include intubation and mech ventilation for tachypnea and  hypoxemia
   and hypercarbia.  Today she
s doing some better with ABG: 7.28/68/85 in
   this woman who likely lives with Pco2 of 60. Current vent settings: VT
   320cc on A/C with Fio2 50% and 10 PEEP.
   She has lots of purulent thick secretions and not only will we await
   culture results but will plan on bronchoscopy to facilitate airway
   clearance and hopefully V/Q matching. A line will be inserted and
   lactate will be followed.  However her wheezing is improved and WBC
   normal, and for now the plan is to stay with current antibiotics.  40
   min spent in thd care of this critically ill patient.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2136-5-6**] 16:57 ------

2136-05-07 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -AM ABG
   -PS trial & [**Name (NI) 866**]
   Pt intubated
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-6**] 07:23 PM
   Aztreonam - [**2136-5-6**] 11:29 PM
   Metronidazole - [**2136-5-7**] 04:47 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-6**] 11:29 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-7**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 80 (80 - 111) bpm
   BP: 101/62(79) {97/55(73) - 126/82(97)} mmHg
   RR: 28 (22 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,772 mL
                                                                    821 mL
   PO:
             TF:
                                                                    846 mL
                                                                    420 mL
   IVF:
                                                                  3,526 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    742 mL
                                                                    310 mL
   Urine:
                                                                    742 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,030 mL
                                                                    511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   [**Year (4 digits) 866**] Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/60/141/31/5
   Ve: 9.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   Gen: intubated
   Lungs: bilateral equal and coarse breath sounds. No wheezes.
   Heart: regular rate and rhythm; distant S1/S2
   [**Last Name (un) **]: soft and nontender; hypoactive bowel sounds
   Extrem: trace pitting edema to mid shins bilaterally
   Labs / Radiology
   255 K/uL
   11.5 g/dL
   173 mg/dL
   0.6 mg/dL
   31 mEq/L
   5.2 mEq/L
   24 mg/dL
   109 mEq/L
   145 mEq/L
   38.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2136-5-5**]  12:09 PM
                             [**2136-5-5**]  05:39 PM
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
   WBC
   9.1
   11.0
   Hct
   37.5
   38.4
   Plt
   191
   255
   Cr
   0.7
   0.6
   TCO2
   36
   36
   39
   37
   34
   32
   32
   35
   Glucose
   207
   173
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD presented originally with nausea,
   vomiting likely secondary to SBO, as well as pneumonia likely secondary
   to aspiration, treated initially with vanc/Zosyn, then levo/Flagyl
   after development of drug rash. Unfortunately, on the latter regimen,
   her respiratory status worsened, she developed white count and spiked
   fevers, requiring alteration of antibiotics and intubation for hypoxic
   respiratory distress.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   Her cough had been improving with much instruction, and her respiratory
   status had improved originally with vanco/Zosyn for aspiration pna;
   however, she developed a drug rash on this regimen and was switched to
   levo/Flagyl on [**5-3**]. With the levo/Flagyl, she spiked and developed
   increasing oxygen demands necessitating intubation on [**5-5**]. She is
   currently on assist control ventilation, with vanco/aztreonam/flagyl
   for aspiration pna coverage. She is afebrile with decreasing white
   count since starting this regimen.
   -continue albuterol and ipratropium inh
   -taper methylprednisolone to 40 mg q8h
   -continue antibiotics with vanco/aztreonam/Flagyl- course not yet
   decided on
   -bronchoscopy today
   -f/u sputum culture
   -repeat ABG this morning
   # Leukocytosis/fever: improving after antibiotic adjustment as above
   -follow-up blood, urine, sputum cultures
   # Hypotension/increase in lactate: hypotension believed due to
   combination of PEEP and sedation on vent since before intubation she
   was never hypotensive, despite ongoing infection. The low BP has
   responded well to IVF. However, due to rising lactate, we would like to
   maintain slightly higher MAPs. Therefore, will aim for MAPs >65 with
   fluid boluses prn.
   -fluid bolus 500 cc prn
   -repeat lactic acid in afternoon with ABG
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  [**Name2 (NI) 53**] with no current
   n/v and minimal bowel sounds.  SBO may be resolving now.  NGT in place,
   tube feeds have been started.
   - advance TF rate as tolerated
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   # Polycythemia: likely due to COPD and hemoconcentration.  Resolved
   with hydration.  Will continue to monitor hct, nothing more to do for
   now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Drug rash: resolved after antibiotic change as above
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - TF for now pending video evaluation as above
   - D5
 NS today due to thirst and possible dehydration
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-5-7**] 05:57 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: ICU

2136-05-07 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with persistent and worsening hypoxemia over past 48 hours
   which in the setting of persistent respiratory distress lead to need
   for intubation.
   24 Hour Events:
 ARTERIAL LINE - START [**2136-5-6**] 12:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-7**] 04:47 AM
   Aztreonam - [**2136-5-7**] 08:15 AM
   Vancomycin - [**2136-5-7**] 09:33 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-7**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2136-5-7**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 94 (80 - 105) bpm
   BP: 117/76(94) {97/55(73) - 126/83(100)} mmHg
   RR: 24 (22 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,772 mL
                                                                  1,334 mL
   PO:
             TF:
                                                                    846 mL
                                                                    595 mL
   IVF:
                                                                  3,526 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                    742 mL
                                                                    605 mL
   Urine:
                                                                    742 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,030 mL
                                                                    729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 30
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 36 cmH2O/mL
   SpO2: 91%
   ABG: 7.35/60/141/31/5
   Ve: 9.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Diminished: , Rhonchorous: minimal)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   255 K/uL
   173 mg/dL
   0.6 mg/dL
   31 mEq/L
   5.2 mEq/L
   24 mg/dL
   109 mEq/L
   145 mEq/L
   38.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2136-5-5**]  12:09 PM
                             [**2136-5-5**]  05:39 PM
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
   WBC
   9.1
   11.0
   Hct
   37.5
   38.4
   Plt
   191
   255
   Cr
   0.7
   0.6
   TCO2
   36
   36
   39
   37
   34
   32
   32
   35
   Glucose
   207
   173
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   71 yo female with mental retardation and now with SBO and likely
   significant aspiration leading to bilateral lower lobe infiltrates and
   now progression to hypoxemic and hypercarbic respiratory failure.  This
   is likely evidence of intermittent mucus plugging but with fevers
   concern for worsening or new infection is significant.
   1)Respiratory Failure-Will be supported as follows, for
   1a)Aspiration Pneumonia-Vanco/Aztreonam/Flagyl
follow up sputum
   cultures
   1b)Mucus plugging/Lobar Collapse
Will pursue bronchoscopy for evidence
   of lobar collapse certainly but will need to evaluate for possible
   organism with quantitative BAL specimen
   1c)Will work to wean ventilator today and decrease PEEP to 5
   -Will need continued wean of ventilator and work to allo optimal chance
   at success with extubation.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-5-7**] 09:19 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   Arterial Line - [**2136-5-6**] 12:00 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : ICU
   Total time spent: 33

2136-05-08 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Bronched: secretions sucked out.
   -Was left on vent overnight [**2-6**] sedation receved during bronch.
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-7**] 07:31 PM
   Aztreonam - [**2136-5-7**] 11:18 PM
   Metronidazole - [**2136-5-8**] 04:50 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-5-7**] 06:49 PM
   Fentanyl - [**2136-5-7**] 06:49 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-7**] 11:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 63 (56 - 124) bpm
   BP: 118/69(82) {92/54(63) - 140/94(100)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,400 mL
                                                                    577 mL
   PO:
             TF:
                                                                    988 mL
                                                                    386 mL
   IVF:
                                                                  1,212 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    400 mL
   Urine:
                                                                  1,465 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    935 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 10 L/min
   Physical Examination
   Gen: intubated, awake, following commands.
   Lungs: bilateral equal and coarse breath sounds. No wheezes.
   Heart: regular rate and rhythm; distant S1/S2
   [**Last Name (un) **]: soft and nontender; hypoactive bowel sounds
   Extrem: trace pitting edema to mid shins bilaterally
   Labs / Radiology
   275 K/uL
   11.6 g/dL
   198 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.8 mEq/L
   25 mg/dL
   101 mEq/L
   142 mEq/L
   38.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2136-5-5**]  05:39 PM
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
   WBC
   9.1
   11.0
   7.7
   Hct
   37.5
   38.4
   38.6
   Plt
   191
   255
   275
   Cr
   0.7
   0.6
   0.6
   TCO2
   36
   39
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8957**]
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD presented originally with nausea,
   vomiting likely secondary to SBO, as well as pneumonia likely secondary
   to aspiration, treated initially with vanc/Zosyn, then levo/Flagyl
   after development of drug rash. Unfortunately, on the latter regimen,
   her respiratory status worsened, she developed white count and spiked
   fevers, requiring alteration of antibiotics and intubation for hypoxic
   respiratory distress.
   # Hypoxia/pneumonia: patient likely aspirated based on CT findings.
   Her cough had been improving with much instruction, and her respiratory
   status had improved originally with vanco/Zosyn for aspiration pna;
   however, she developed a drug rash on this regimen and was switched to
   levo/Flagyl on [**5-3**]. With the levo/Flagyl, she spiked and developed
   increasing oxygen demands necessitating intubation on [**5-5**]. She is
   currently on assist control ventilation, with vanco/aztreonam/flagyl
   for aspiration pna coverage. She is afebrile with decreasing white
   count since starting this regimen.
   -continue albuterol and ipratropium inh
   -taper methylprednisolone to 40 mg q8h
   -continue antibiotics with vanco/aztreonam/Flagyl- course not yet
   decided on
   -bronchoscopy today, was not done yesterday.
   -f/u sputum culture
   -repeat ABG this morning
   # Leukocytosis/fever: improving after antibiotic adjustment as above.
   No culture data to date.  Plan on Bronch today with BAL for organism.
   -follow-up blood, urine, sputum cultures
   # Hypotension: occurred in the setting of intubation, sedation and
   increased PEEP.  She responded to fluids and her hypotension has
   resolved.
   # Nausea/vomiting/SBO: etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  Currently resolved.  NGT
   in place, tube feeds have been started.  Tube feeds at goal.
   - close monitoring of WBC, K, Cr, lactate; trend abdominal exam as
   well, though this may be less helpful given pt's MR
   - surgery following; appreciate recs
   # Polycythemia: likely due to COPD and hemoconcentration.  Resolved
   with hydration.  Will continue to monitor hct, nothing more to do for
   now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Drug rash: resolved after antibiotic change as above
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - TF for now pending video evaluation as above
   - D5
 NS today due to thirst and possible dehydration
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-5-8**] 04:13 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: ICU

2136-05-08 12:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2136-5-7**] 02:30 PM
 BRONCHOSCOPY - At [**2136-5-7**] 06:00 PM
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-8**] 04:50 AM
   Vancomycin - [**2136-5-8**] 07:41 AM
   Aztreonam - [**2136-5-8**] 07:41 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-5-7**] 06:49 PM
   Fentanyl - [**2136-5-7**] 06:49 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-8**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2136-5-8**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 51 (51 - 124) bpm
   BP: 129/75(114) {92/54(63) - 140/94(114)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  2,400 mL
                                                                  1,188 mL
   PO:
             TF:
                                                                    988 mL
                                                                    630 mL
   IVF:
                                                                  1,212 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    520 mL
   Urine:
                                                                  1,465 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    935 mL
                                                                    668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 380 (380 - 380) mL
   PS : 10 cmH2O
   RR (Set): 30
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: ///33/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   275 K/uL
   198 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.8 mEq/L
   25 mg/dL
   101 mEq/L
   142 mEq/L
   38.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2136-5-5**]  05:39 PM
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
   WBC
   9.1
   11.0
   7.7
   Hct
   37.5
   38.4
   38.6
   Plt
   191
   255
   275
   Cr
   0.7
   0.6
   0.6
   TCO2
   36
   39
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8957**]
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-ETT in good position, mild improvement in dominantly left
   sided infiltrate
   Assessment and Plan
   71 yo male admitted with SBO and with re-intubation patient had
   evidence of significant left sided opaciteis and now with bronchoscopy
   performed to aid in clearance of what appears to significant secretions
   leading to collapse distally and that may well have been contributing
   to continued issues with collapse and hypoxia and respiratory distress.
   1)Respiratory Failure-Improved with management of airways obstruction,
   pneumonia and airway related mucus plugging and collapse.  She has mild
   residual wheezes noted but with good tolerance of minimal respiratory
   support.  Will treat with
   1a)Pneumonia-Flagyl/Vanco/Atreonam
8 days
   1b)COPD-Continue solumedrol, nebs q 4 hours post extubation
   1c)Mucus plugging
is s/p bronch
will need aggressive chest PT, cough,
   deep breath and suctioning
   1d)Extubation
will hold TF
s this morning and move to extubation this
   morning
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition: Tube Feeds
at 55 cc/hr
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2136-05-09 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -extubated, switched to CPAP, then nasal cannula (satting 90-100%)
   -continue aztreonam/vanco/Flagyl for 8-day course
   -tapered steroids- now on 60 mg po prednisone
   -re-consult speech+swallow- video study ordered for [**5-9**]
   -noted to have clotted blood in perineal region of unclear source.
   ordered miconazole for [**Female First Name (un) 188**] intertrigo but no obvious excoriations;
   no blood clots in foley; stool guaiac neg; ?vaginal source; difficult
   to assess as no active bleed.
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-8**] 08:00 PM
   Aztreonam - [**2136-5-9**] 12:15 AM
   Metronidazole - [**2136-5-9**] 05:51 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-8**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-8**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-9**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 93 (51 - 100) bpm
   BP: 127/73(87) {112/61(75) - 137/90(114)} mmHg
   RR: 28 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,875 mL
                                                                    273 mL
   PO:
             TF:
                                                                    688 mL
   IVF:
                                                                  1,188 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    750 mL
   Urine:
                                                                  1,800 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 359 (359 - 380) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 9.4 L/min
   Physical Examination
   Gen: awake, following commands. Thirsty
   Lungs: Equal breath sounds b/l, much less coarse. No wheezes.
   Heart: regular rate and rhythm; distant S1/S2
   [**Last Name (un) **]: soft and nontender; hypoactive bowel sounds
   Extrem: No edema
   Labs / Radiology
   280 K/uL
   12.5 g/dL
   110 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   19 mg/dL
   98 mEq/L
   140 mEq/L
   39.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
   WBC
   9.1
   11.0
   7.7
   12.1
   Hct
   37.5
   38.4
   38.6
   39.3
   Plt
   191
   255
   275
   280
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   39
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8975**]10
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD presenting with SBO and hypoxia thought
   secondary to COPD and overlying pneumonia likely secondary to
   aspiration, improving initially on abx but worsened requiring
   intubation when regimen revised for drug rash; now improved on current
   abx and s/p bronch suctioning.
   # Hypoxia/pneumonia: Likely aspirated based on CT findings.
   Respiratory status had improved originally with vanco/Zosyn but she was
   switched to levo/flagyl on [**5-3**] for drug rash. She subsequently spiked
   and developed increasing oxygen demands necessitating intubation on [**5-5**]
   and revision of abx to vanc/aztreonam/flagyl. Improved on vent s/p
   suctioning and bronch and on current abx.
   -Change methylpred to prednisone 60mg, continue albuterol and
   ipratropium inh
   -Continue vanco/aztreonam/Flagyl with plan for 8-day course, D1
   beginning when afebrile on [**5-6**]
   # Leukocytosis/fever: Improving after antibiotic adjustment as above.
   No culture data to date.
   -F/u pending sputum cultures
   # Hypotension: occurred in the setting of intubation, sedation and
   increased PEEP.  She responded to fluids and her hypotension has
   resolved.
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  Currently resolved.  NGT
   in place, tube feeds have been started.  Tube feeds at goal.
   - Follow abdominal exam
   - Surgery following; appreciate recs
   - Will follow up speech and swallow recs for TF and PO diet.
   # Polycythemia: likely due to COPD and hemoconcentration.  Resolved
   with hydration.  Will continue to monitor hct, nothing more to do for
   now.
   - appreciate Heme recs, will follow up as needed.
   # Tachycardia: Sinus tach, likely in setting of respiratory distress.
   CTA without PE.  Will continue to monitor.
   # Drug rash: resolved after antibiotic change as above
   # Bipolar Disorder: will need to hold outpt psychiatric meds in setting
   of SBO. Can use IV haldol judiciously if needed, however do not
   anticipate this will be necessary.
   # GERD: Continue PPI
   # FEN:
   - Correct/replete electrolytes PRN
   - TF for now pending video evaluation as above
   - D5
 NS today due to thirst and possible dehydration
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: ICU
   ------ Protected Section ------
   A&P:
   # Vaginal bleeding: Assessed by nursing staff and very likely vaginal
   source.  [**Month (only) 60**] be related to vaginal dryness and being in bed for long
   time, however in her age croup cancer is also a concern.  The bleeding
   is minimal.
   -Plan to assess with Vaginal U/S on medical floor or as outpatient.
   # Dispo: [**Month (only) 60**] be able to call out to floor after S&S video eval.
   ------ Protected Section Addendum Entered By:[**Name (NI) 8908**] [**Last Name (NamePattern1) 8909**], MD
   on:[**2136-5-9**] 10:59 ------

2136-05-09 10:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   SBO
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2136-5-8**] 03:18 PM
   -Patient extubated without event
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Phenothiazines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-9**] 05:51 AM
   Vancomycin - [**2136-5-9**] 07:49 AM
   Aztreonam - [**2136-5-9**] 07:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-9**] 07:48 AM
   Pantoprazole (Protonix) - [**2136-5-9**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-9**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 89 (64 - 100) bpm
   BP: 123/82(87) {112/61(75) - 136/90(97)} mmHg
   RR: 29 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,875 mL
                                                                    618 mL
   PO:
             TF:
                                                                    688 mL
   IVF:
                                                                  1,188 mL
                                                                    618 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,250 mL
   Urine:
                                                                  1,800 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -632 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 359 (359 - 359) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   280 K/uL
   110 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   19 mg/dL
   98 mEq/L
   140 mEq/L
   39.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2136-5-5**]  10:29 PM
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
   WBC
   9.1
   11.0
   7.7
   12.1
   Hct
   37.5
   38.4
   38.6
   39.3
   Plt
   191
   255
   275
   280
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   39
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8975**]10
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   71 yo with initial admission with SBO and complicated by signfiicant
   aspiration events with bilateral PNA and collapse now with hypoxemic
   respiratory failure.  She has done welll with extubation with
   significant secretions cleared on bronchoscopy during intubation which
   she may well not have been able to clear without intubation.
   1)Respiratory Failure-
   Vanco/Aztreonam/Flagyl to continue
   Alb/Atr
for wheezing
   OOB to chair, chest PT, suctioning
   Move to ambulation as possible
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition: npo
will obtain swallow eval and maintain NGT until then
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-1**] 12:57 PM
   20 Gauge - [**2136-5-6**] 07:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition : ICU
consider T-fer to floor
   Total time spent: 35